US09233950B2
To 50 ml of MeOH is added drop wise acetyl chloride (3 ml) at room temperature. After 15 min, 2-amino-6-methylisonicotinic acid (2.3 g) is added and the mixture is stirred overnight at 50° C. After concentrating the solution, the resulting residue is suspended in acetone and then filtered and dried at 50° C. in vacuum, to yield 2-amino-6-methylisonicotinic acid methyl ester (4.1 g). HPLC: Rt=0.91 min (method D)

reactant | acetyl chloride | 3 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2-amino-6-methylisonicotinic acid | 2.3 g | NC=1C=C(C(=O)O)C=C(N1)C | C7H8N2O2
solvent | MeOH | 50 ml | CO | CH4O
product | 2-amino-6-methylisonicotinic acid methyl ester | 4.1 g | COC(C1=CC(=NC(=C1)C)N)=O | C8H10N2O2
